data/oMe_Silver.jsonl
{"reaction_id": "NR-338_1-c1ccccc1_2-C#N_3-Cl_4-c1ccccc1_5-C(Cl)Cl","level": "medium","name": "Rubottom Oxidation","reactants_smiles": ["C(=C(C#N)Cl)(c1ccccc1)O[Si](c1ccccc1)(c1ccccc1)c1ccccc1","O=C(OO)C(Cl)Cl"],"products_smiles": ["C(=O)(C(O[Si](c1ccccc1)(c1ccccc1)c1ccccc1)(C#N)Cl)c1ccccc1"],"conditions": "","mechanism_step_nums": 3,"mechanism": [{"step": 1,"type": "addition","subtype": "electrophilic_addition","intermediate_smiles": "C1(O[Si](c1ccccc1)(c1ccccc1)c1ccccc1)(c1ccccc1)C(C#N)(Cl)O1","step_weight": 0,"rationale": "The electron-rich alkene of the silyl enol ether attacks the electrophilic peracid oxygen, favored by π-electron donation from the oxygen substituent and the strong electrophilicity of the peracid's terminal oxygen."},{"step": 2,"type": "rearrangement","subtype": "1,2-shift","intermediate_smiles": "C(=[O+][Si](c1ccccc1)(c1ccccc1)c1ccccc1)(c1ccccc1)C([O-])(C#N)Cl","step_weight": 0,"rationale": "The 1,2-shift of the silyl group is driven by the stability of the silicon–oxygen bond and the ability of silicon to stabilize positive charge via hyperconjugation and empty d-orbital participation."},{"step": 3,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "C(=O)(C(O[Si](c1ccccc1)(c1ccccc1)c1ccccc1)(C#N)Cl)c1ccccc1","step_weight": 0,"rationale": "Nucleophilic attack by the oxygen displaces the leaving group, restoring the carbonyl; silicon’s strong affinity for oxygen makes the silyloxy group stable in the product."}],"description": "The silyl enol ether undergoes electrophilic addition with the peracid to form a dioxirane-like intermediate. A 1,2-shift transfers the silyl group with concurrent oxygen insertion, driven by stabilization of the developing positive charge. Finally, nucleophilic substitution regenerates the carbonyl, yielding the α-silyloxy ketone."}
{"reaction_id": "NR-107_1-c1ccccc1_2-c1ccc(OC)cc1_3-c1ccc(C)cc1_4-C1CC(C)C(C)C1_5-C(C)C_6-C_7-CCCCC","level": "medium","name": "Hofmann Elimination","reactants_smiles": ["C(c1ccccc1)(c1ccc(OC)cc1)C(c1ccc(C)cc1)(C1CC(C)C(C)C1)[N+](C(C)C)(C)CCCCC","[OH-]"],"products_smiles": ["C(=C(c1ccc(C)cc1)C1CC(C)C(C)C1)(c1ccccc1)c1ccc(OC)cc1"],"conditions": "Heat","mechanism_step_nums": 1,"mechanism": [{"step": 1,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(=C(c1ccc(C)cc1)C1CC(C)C(C)C1)(c1ccccc1)c1ccc(OC)cc1","step_weight": 0,"rationale": "Hydroxide abstracts the least hindered β-hydrogen anti-periplanar to the bulky ammonium group; the excellent leaving ability of the quaternary ammonium drives E2 elimination, yielding the less substituted alkene favored by steric effects."}],"description": "Under strong base and heat, the quaternary ammonium group undergoes Hofmann elimination, favoring the less substituted alkene due to steric hindrance and anti-periplanar geometry requirements. Hydroxide abstracts a β-proton, facilitating elimination of the bulky ammonium leaving group."}
{"reaction_id": "NR-142_1-C=CC_2-CC_3-c1ccc(C(F)(F)F)cc1","name": "Meisenheimer Rearrangement","level": "medium","reactants_smiles": ["[N+]([O-])(C=CC)(CC)(c1ccc(C(F)(F)F)cc1)"],"products_smiles": ["N(OC=CC)(CC)(c1ccc(C(F)(F)F)cc1)"],"conditions": "Heat","mechanism": [{"step": 1,"type": "pericyclic","subtype": "sigmatropic_rearrangement","intermediate_smiles": "N(OC=CC)(CC)(c1ccc(C(F)(F)F)cc1)","rationale": "Thermal energy promotes a concerted [2,3]-sigmatropic shift, favored by the N-oxide’s ability to delocalize electron density and stabilize the transition state through resonance between nitrogen and oxygen."}],"description": "Upon heating, the N-oxide undergoes a [2,3]-sigmatropic rearrangement (Meisenheimer rearrangement), shifting the C=CC group from nitrogen to oxygen. This pericyclic process is thermally allowed and driven by the formation of a strong N–O bond and relief of electronic strain."}
